US03959289
a. Methyl 2,6-dinitrobenzoate
2,6-Dinitrobenzoic acid (10.6 grams) is suspended in ether (125 ml.) at 0°C. 1-Methyl-3-p-tolyltriazine (8.2 grams) in ether (75 ml.) is added dropwise to the stirred reaction mixture in an ice bath. The reaction mixture is stirred at 0° for 1 hour and at room temperature for 1 hour. The reaction mixture is diluted to 1 l. with ether and the insoluble product collected by filtration. Recrystallization from methanol gives colorless crystals (3.65 grams, melting point 150°-151.5°). An additional 4.1 grams of product are obtained from the filtrate.

reactant | 2,6-Dinitrobenzoic acid | 10.6 grams | [N+](=O)([O-])C1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H4N2O6
reactant | 1-Methyl-3-p-tolyltriazine | 8.2 grams | CN1NN(CC=C1)C1=CC=C(C=C1)C | C11H15N3
solvent | ether | 125 ml | CCOCC | C4H10O
solvent | ether | 75 ml | CCOCC | C4H10O
product | Methyl 2,6-dinitrobenzoate | 3.65 grams | [N+](=O)([O-])C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H6N2O6
